US03989749
Using the method of Example 23 but substituting an ether solution of 1-diazodecane for the ether solution of diazomethane and 7-[1-(4-hydroxynonyl)ureido]heptanoic acid for 7-[1-(4-hydroxynonyl)thioureido]heptanoic acid, there is obtained decyl 7-[1-(4-hydroxynonyl)ureido]-heptanoate as a viscous oil.

reactant | 1-diazodecane | [N+](=[N-])=CCCCCCCCCC | C10H20N2
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | 7-[1-(4-hydroxynonyl)ureido]heptanoic acid | OC(CCCN(C(=O)N)CCCCCCC(=O)O)CCCCC | C17H34N2O4
reactant | 7-[1-(4-hydroxynonyl)thioureido]heptanoic acid | OC(CCCN(C(=S)N)CCCCCCC(=O)O)CCCCC | C17H34N2O3S
solvent | ether | CCOCC | C4H10O
product | decyl 7-[1-(4-hydroxynonyl)ureido]-heptanoate | OC(CCCN(C(=O)N)CCCCCCC(=O)OCCCCCCCCCC)CCCCC | C27H54N2O4
